US08133849B2
To a solution of 4-bromo-2-trifluoromethylbenzyl bromide (2.4 g) in acetone (20 ml) was added potassium thioacetate (1.04 g). The reaction mixture was heated to reflux for 4 hours. The reaction mixture was allowed to cool to ambient temperature and was then filtered through a plug of silica gel. Further acetone (30 ml) was passed through the silica gel (30 ml). The combined filtrate was concentrated to give thioacetic acid S-(4-bromo-2-trifluoromethyl-benzyl) ester as a dark liquid (2.275 g). 1H-NMR (400 MHz, CDCl3): 7.75 (s, 1H), 7.60 (d, 1H), 7.42 (d, 1H), 4.25 (s, 2H), 2.36 (s, 3H) ppm.

reactant | 4-bromo-2-trifluoromethylbenzyl bromide | 2.4 g | BrC1=CC(=C(CBr)C=C1)C(F)(F)F | C8H5Br2F3
reactant | potassium thioacetate | 1.04 g | C(C)(=S)[O-].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | thioacetic acid S-(4-bromo-2-trifluoromethyl-benzyl) ester | 2.275 g | BrC1=CC(=C(CSC(C)=O)C=C1)C(F)(F)F | C10H8BrF3OS
